US04777281
A stirred mixture of 3,4-dichloro-6,7,8,8a,9,10-hexahydro-2-hydroxy-6-oxo-8a-propylphenanthrene (0.4 g, 1.22 mmole), potassium carbonate (0.2 g, 1.45 mmole) and chloroacetonitrile (160 μl, 1.78 mmole) in dimethylformamide (7 ml) is heated at 65° C. for 2 hours, poured into ice water, extracted with ether, washed with water, brine, dried over MgSO4 and evaporated in vacuo. Trituration of the residual oil with butyl chloride give 2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetonitrile which is removed by filtration, and dried.

reactant | 3,4-dichloro-6,7,8,8a,9,10-hexahydro-2-hydroxy-6-oxo-8a-propylphenanthrene | 1.22 mmole, 0.4 g | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)O | C17H18Cl2O2
reactant | potassium carbonate | 1.45 mmole, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 1.78 mmole, 160 μl | ClCC#N | C2H2ClN
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 2-[(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetonitrile | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC#N | C19H19Cl2NO2
